US09145392B2
6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)-5-(1H-pyrazol-4-yl)pyrimidin-4-amine (“98”)
A mixture of 6-{4-[1-(2-Azetidin-1-yl-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-5-bromo-pyrimidin-4-ylamine (100.00 mg; 0.18 mmol; 1.00 eq.), 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazole-1-carboxylic acid tert-butyl ester (77.63 mg; 0.26 mmol; 1.50 eq.), and in dioxane 2 ml and water 0.15 ml was degas, added Pd(t-Bu3)2 13 mg, stirred at 50° C. for overnight. Added methanol 5 ml, 4.0M HCl in dioxane 5 ml, stirred at RT for 4 hr, removed off solvent and purified by prep HPLC, collected title compound 15 mg, yield 12.7%. LC-MS: (M+1=556, obsd.=556).

reactant | 6-{4-[1-(2-Azetidin-1-yl-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-5-bromo-pyrimidin-4-ylamine | 0.18 mmol, 100.00 mg, 1.00 eq. | N1(CCC1)CCN1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCN(CC1)C1=C(C(=NC=N1)N)Br | C24H26BrF4N7
reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazole-1-carboxylic acid tert-butyl ester | 0.26 mmol, 77.63 mg, 1.50 eq. | C(C)(C)(C)OC(=O)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H23BN2O4
product | 6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)-5-(1H-pyrazol-4-yl)pyrimidin-4-amine | 15 mg, yield 12.7% | N1(CCC1)CCN1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCN(CC1)C1=C(C(=NC=N1)N)C=1C=NNC1 | C27H29F4N9
